US07521453B2
3-Azidomethyl-5-methylisoxazole
3-Chloromethyl-5-methylisoxazole (500 mg, 3.8 mmol) and sodium azide (494 mg, 7.6 mmol) were heated in DMF (10 ml) at 60° C. for 6 hours. The reaction mixture was diluted with water then extracted with EtOAc. The organic extracts were dried (MgSO4) and the volatiles removed by evaporation to give the title compound (387 mg, 73%) as an oil. NMR (DMSO): 2.40 (s, 3H), 4.48 (s, 2H), 6.28 (s, 1H).

reactant | 3-Chloromethyl-5-methylisoxazole | 3.8 mmol, 500 mg | ClCC1=NOC(=C1)C | C5H6ClNO
reactant | sodium azide | 7.6 mmol, 494 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Azidomethyl-5-methylisoxazole | 387 mg, 73% | N(=[N+]=[N-])CC1=NOC(=C1)C | C5H6N4O
